US08211892B2
5.08 g of 4-[5-(4-(benzyloxycarbonyl)piperazin-1-yl)pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester are placed in 240 ml of ethanol in a Parr bottle. 2 g of 10% Pd/C (50% in water) are added. The reaction medium is stirred at 35° C. under 45 psi hydrogen for 3.5 h. It is filtered on a Whatman filter under an inert atmosphere and then the filter residue is washed many times with methanol. The methanol is evaporated under reduced pressure. 3.57 g of 4-(5-(piperazin-1-yl)pyridin-2-yl)-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester are obtained.

reactant | 4-[5-(4-(benzyloxycarbonyl)piperazin-1-yl)pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | 5.08 g | C(C)(C)(C)OC(=O)N1CCN(C2=CC=CC=C12)C1=NC=C(C=C1)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C30H35N5O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 240 ml | C(C)O | C2H6O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 4-(5-(piperazin-1-yl)pyridin-2-yl)-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | 3.57 g | C(C)(C)(C)OC(=O)N1CCN(C2=CC=CC=C12)C1=NC=C(C=C1)N1CCNCC1 | C22H29N5O2
